Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](/[C:3](=[C:5](\[C:6]#[N:7])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:4]([H:14])[H:15],50.837710451419895
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:17].[C:2](/[C:3](=[N:5]/[C:6](=[O:7])[H:18])[H:13])([C:4]([H:14])([H:15])[H:16])([H:11])[H:12],89.37235905366128
[C:1]([C:2]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9].[C:3](=[O:4])=[N:5][C:6]([H:13])([H:14])[H:15]>>[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],66.05549316453637
[N:1]([C:2]([O-:3])=[C:4]([O:5][C:6](=[N+:7]([H:11])[H:13])[H:12])[H:10])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],0.7967285936026869
[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:8])[H:10].[C:6](=[O:7])([H:9])[H:17].[O:3]=[C:4]([C:5]([H:14])([H:15])[H:16])[H:13],66.0000338437013
[C:1]([C@@:5]1([H:14])[C:4]([H:13])=[N+:3]([C-:2]([H:11])[H:12])[C:7]([H:15])=[N:6]1)([H:8])([H:9])[H:10]>>[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],52.58282757592712
[C:1]([C-:2]([C:3]([H:11])([H:12])[H:13])[N+:4]([C:5](=[O:6])[H:15])([H:10])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]([C:5](=[O:6])[H:15])[H:14])[H:10])([H:7])([H:8])[H:9],6.723532877707882
[N:1]([C:2]1([C:5]#[N:6])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:7])[H:8]>>[C:2]1([C:5]#[N:6])=[C:3]([H:9])[C:4]1([H:11])[H:12].[N:1]([H:7])([H:8])[H:10],66.69725741401301
[O:1]=[C:2]([N:3]([C:4]1([H:10])[C:5]([H:12])([H:13])[C:6][C:7]1([H:11])[H:14])[H:9])[H:8]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],40.88959318761561
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O:1]=[C:2]([C@@:3]([C:4]([H:10])([H:11])[H:12])([N:5]=[C:6]=[O:7])[H:9])[H:8],51.489173930479495
[C:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C:2](=[O:3])[N:4]([H:10])[C:5]([H:7])([H:11])[N:6]1[H:12],92.1447869508953
[C:1]([C:2](=[C:4]=[O:5])[H:10])([H:7])([H:8])[H:9].[C:3]([N:6]([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[N:6]([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],53.35085870918399
[C:1]([C:2]([N:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9].[C:2](=[N:3][H:12])([H:10])[H:11],93.39555491391657
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]=[C:6]=[O:7])[H:11])([H:8])([H:9])[H:10].[H:15][H:16],73.1456232695395
[O:1]=[C:2]([C:3]([H:6])([H:7])[H:8])[C:5]([N:4])([H:9])[H:10]>>[O:1]=[C:2]1[C:3]([H:6])([H:7])[N:4]([H:8])[C:5]1([H:9])[H:10],25.636830489794505
[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[O:1]1[C@@:2]2([H:7])[C@:3]1([H:8])[O:6][C:5]([H:11])([H:12])[C:4]2([H:9])[H:10],43.2778308558914
[C-:6]#[O+:7].[C:1](=[C:2]([O-:3])[C:4]#[O+:5])([H:8])[H:9].[H:10][H:11]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10],19.629073279420496
[O:1]([C:2]([C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([O:6][C:5]([C:4][H:11])([H:13])[H:14])([H:10])[H:12])([H:8])[H:9])[H:7],85.2489034731127
[C-:4]#[O+:5].[N-:1]([C:2]#[C:3][N+:7]#[N:6])[H:8]>>[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6],29.6381831358381
[N:1]([C:2](=[C:3]([N+:4]#[N:5])[H:9])[O-:6])([H:7])[H:8]>>[n:1]1([H:7])[c:2](=[O:6])[c:3]([H:9])[n:4][n:5]1[H:8],54.0819486205425
[O:1]=[C:2]([C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([C:3]([C:4]([C:6](=[C:5])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],58.485469188743494
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C@:2]([C:3]([H:12])([H:13])[H:14])([H:11])/[C:4]1=[C:5](\[C:6](=[O:7])[H:15])[H:9],79.5821823605192
[N:1]#[C:2][C:3]1(/[C:4](=[N:5]/[H:9])[H:8])[N:6]=[N:7]1>>[N:1]#[C:2][c:3]1[c:4]([H:8])[n:5]([H:9])[n:6][n:7]1,89.62092260068638
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([O:7][H:15])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]([H:13])[H:14],108.605015329995
[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[O:4][N:6]([H:12])[C:5]1)([H:7])[H:8],62.0202722686131
